.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 1 1k)
*Vin in 0 0 ac 1.0 sin(0 0 1k)

Rin in in2 100
*Rin 0 in2 0

* input coupling capacitor
Ci in2 base 1m

* bias circuit
R1 vcc base 80k
R2 base 0 20k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1000
Re emit 0 100

* bypass capacitor
Cb emit 0 2740u


* output stage
 Q2 0 base2 emit2 BC557A
 Vfc coll base2 0.0
*Rout emit2 vcc 450
Rout emit2 vcc 1

* output coupling capacitor
Co emit2 out 3m

* load
RL out 0 8
*Vfc2 out 0 0 ac 1.0 sin(0 10.0 1k)


*------------------Analysis-----------------------
.op
.print dc v(coll)

.measure ac gain_max MAX vdb(coll) from=1 to=100MEG
.measure ac out_max MAX vdb(out) from=1 to=100MEG

.param gain_Limit_Volt = 2.134401e+01 -3.0
.param out_Limit_Volt = 1.560026e+01 - 3.0

.measure ac gain_LowerLimit when vdb(coll)=gain_Limit_Volt
.measure ac out_LowerLimit when vdb(out)=out_Limit_Volt
.measure ac out_UpperLimit when vdb(out)=out_Limit_Volt CROSS=LAST

.end
.control



*------------------Transient Analysis-----------------------
tran 1e-5 1e-2
*plot v(coll)
*plot v(in2)
*hardcopy vo1_t.ps v(coll)
*hardcopy vs_t.ps v(in2)


*------------------Frequency Analysis-----------------------
ac dec 10 10 100MEG
plot v(coll)
plot vp(coll)
plot v(out)
hardcopy vo1_db.ps db(v(coll)) db(v(out))
echo vo1_db_FIG
hardcopy vo2_db.ps db(v(out))
echo vo2_db_FIG
hardcopy vo2_vo1_db.ps v(out)/v(coll)


*------------------Impedance Analysis-----------------------

*Impedância de Input da Gain
plot abs(v(in2)[40]/vin#branch[40]/(-1000))
print v(in2)[40]/vin#branch[40]/(-1000)



*Impedância de Input da Out (pôr Rl+C2 a comentário)
*plot abs(v(base2)[40]/vfc#branch[40]/(1000))
*print v(base2)[40]/vfc#branch[40]/(1000)

*Impedância de Output da Out (pôr Rin e Vin a zero, Rl subst por Vfc2)

*plot abs(v(out)[40]/vfc2#branch[40]/(-1000))
*print v(out)[40]/vfc2#branch[40]/(-1000)

*plot vdb(out)
*plot vp(out)
*hardcopy vo2f.ps vp(coll)

*plot v(coll)[40]-v(emit)[40]
*print v(coll)[40]-v(emit)[40]


*input impedance in kohm
*print all

*need a different setup to measure output impedance

.endc 

